US07622583B2
4-Chloro -N-[5-chloro-2-(3-(±)-hydroxypyrrolidine-1-carbonyl)pyridin-3-yl]-3-trifluoromethylbenzenesulfonamide.
To a vial containing 5-chloro-3-(4-chloro-3-trifluoromethyl benzenesulfonylamino)-pyridine-2-carboxylic acid (20 mg, 0.05 mmol) were added 3-(±)-pyrrolidinol hydrochloride (13 mg, 0.11 mmol), BOP (25 mg, 0.06 mmol), DMF (0.3 mL) and NEt3 (40 μL, 0.29 mmol). The solution was maintained at room temperature for 24 h, then diluted with EtOAc (30 mL), washed with saturated aqueous NaCl (3×5 mL), and dried over MgSO4. The volatiles were removed in vacuo. The resulting residue was purified by preparative HPLC (20→95% gradient of MeCN-H2O with 0.1% TFA) and the pure fractions lyophilized to afford the title compound (10 mg, 43% yield): HPLC retention time=2.49 minutes. MS (ES) [M+H]+ expected 484.0, found 484.0. 1H NMR (400 MHz, CDCl3) δ 11.38 (s, 1 H), 8.21-8.24 (m, 1 H), 8.11-8.13 (m, 1 H), 8.02-8.04 (m, 1 H), 7.91-7.93 (m, 1 H), 7.60-7.62 (m, 1 H), 4.50-4.53 (m, 1 H), 3.82-4.01 (m, 2H), 3.65-3.76 (m, 3H), 1.95-2.04 (m, 2H).

reactant | 5-chloro-3-(4-chloro-3-trifluoromethyl benzenesulfonylamino)-pyridine-2-carboxylic acid | 0.05 mmol, 20 mg | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | BOP | 0.06 mmol, 25 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DMF | 0.3 mL | CN(C)C=O | C3H7NO
reactant | NEt3 | 0.29 mmol, 40 μL | CCN(CC)CC | C6H15N
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro -N-[5-chloro-2-(3-(±)-hydroxypyrrolidine-1-carbonyl)pyridin-3-yl]-3-trifluoromethylbenzenesulfonamide | 10 mg, 43% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)N1CC(CC1)O)C(F)(F)F | C17H14Cl2F3N3O4S
